US04638005
1-Methyl-3-sulfonylmethyl-6-methylpyrazine (3200)
2.0 g of 2-sulfonylmethyl-5-methylpyrazine sodium salt (3100) was added to a solution of 15 ml methyl iodide/25 ml methanol and refluxed for 5 days. The mixture was then cooled and filtered. The solid was purified by gel permeation chromatography (Biogel P-2/water) and freeze-dried to give 1.6 g of product (3200). It was recrystallized from propanol/water, m.p.>350° (dec.) UV H2O max: 213 (3.91), 293 (3.87).

reactant | 2-sulfonylmethyl-5-methylpyrazine sodium salt | 2.0 g | [Na].S(=O)(=O)=CC1=NC=C(N=C1)C
reactant | methyl iodide | 15 ml | CI | CH3I
product | 1-Methyl-3-sulfonylmethyl-6-methylpyrazine | 1.6 g | CN1CC(=NC=C1C)C=S(=O)=O | C7H10N2O2S
